US08975254B2
N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-3-(1-(2-hydroxyethylamino)-ethyl)-1H-pyrazole-5-carboxamide
3-Acetyl-N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-1H-pyrazole-5-carboxamide (78 mg; 0.20 mmol) and 2-aminoethanol (10 mg; 0.17 mmol) were dissolved in 5 ml of dry toluene and 5 ml of dry THF and stirred for 6.5 h at 75° C. under nitrogen atmosphere and then overnight at RT. Sodium tetrahydroborate (18.8 mg; 0.50 mmol) was added, stirred for 3 days at RT and then 4.5 h at 75° C. 10 mg of sodium tetrahydroborate was added and the mixture was heated for 5 h at 50° C. to complete the reaction. 0.1 ml of water was added at 0° C. and pH adjusted to 1 with 1 M HCl. Solution was evaporated to dryness, 15 ml of DCM was added and the mixture was washed with 10 ml of water. pH was adjusted to 12 with 1 M NaOH and 15 ml of DCM was added. After Na2SO4 drying the compound was purified by chromatography (CombiFlash, Silica column, 2.5-10% MeOH/DCM) to obtain 19 mg (26%) of the title compound. 1H-NMR (400 MHz; d1-CDCl3): δ 1.43 (d, 3H), 2.55-2.70 (m, 1H), 2.74-2.85 (m, 1H), 2.97 (t, 2H), 3.60-3.76 (m, 4H), 4.02-4.12 (m, 1H), 6.16 (d, 1H), 6.53 (d, 1H), 6.65 (s, 1H), 7.33-7.41 (m, 3H), 7.67 (d, 1H).

reactant | 3-Acetyl-N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-1H-pyrazole-5-carboxamide | 0.20 mmol, 78 mg | C(C)(=O)C1=NNC(=C1)C(=O)NCCC=1OC(=CC1)C1=CC(=C(C=C1)Cl)Cl | C18H15Cl2N3O3
reactant | 2-aminoethanol | 0.17 mmol, 10 mg | NCCO | C2H7NO
reactant | Sodium tetrahydroborate | 0.50 mmol, 18.8 mg | [BH4-].[Na+]
reactant | sodium tetrahydroborate | 10 mg | [BH4-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.1 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-3-(1-(2-hydroxyethylamino)-ethyl)-1H-pyrazole-5-carboxamide | 19 mg, 26% | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=CC(=NN1)C(C)NCCO | C20H22Cl2N4O3
